US06455507B1
As described in General Procedure III, 2-bromo-5,6-dichlorobenzimidazole (1.0 g, 3.8 mmol), N,O-bis(trimethylsilyl) acetamide (Aldrich, 1.0 ml, 4.1 mmol), and 1,2-dichloroethane (Aldrich Sure Seal, 25 ml) were combined and refluxed under nitrogen for 0.5 h. The solution was cooled to 50° C. and trimethylsilyl trifluoromethanesulfonate (Aldrich, 0.8 ml, 4.1 mmol) was added. Immediately, 1.4 g (4.4 mmol) solid 1,2,3,4-tetra-O-acetyl-beta-L-xylopyranose was added. The solution was stirred under nitrogen at reflux for 0.25 h, then poured into 7% aqueous sodium bicarbonate and extracted with dichloromethane. The organic layers were dried with magnesium sulfate (anhyd), filtered, and evaporated. The crude residue was crystallized from chloroform and hexane to give 1.11 g (56% yield) of 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-beta-L-xylopyranosyl)-1H-benzimidazole. 1H NMR (CDCl3) δ7.80 (s,1H), 7.76 (s, 1H), 5.68-5.64 (m, 1H), 5.55-5.51 (m, 1H), 5.32-5.25 (m, 1H), 4.48-4.43 (dd, 1H), 3.69-3.61 (t, 1H), 2.15 (s, 3H), 2.10 (s, 3H), 1.90 (s, 3H).

reactant | 2-bromo-5,6-dichlorobenzimidazole | 3.8 mmol, 1.0 g | BrC=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C7H3BrCl2N2
reactant | N,O-bis(trimethylsilyl) acetamide | 4.1 mmol, 1.0 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 4.1 mmol, 0.8 ml | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2,3,4-tetra-O-acetyl-beta-L-xylopyranose | C(C)(=O)O[C@@H]1[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)CO1 | C13H18O9
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 2-bromo-5,6-dichloro-1-(2,3,4-tri-O-acetyl-beta-L-xylopyranosyl)-1H-benzimidazole | 1.11 g, 56% yield | BrC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)CO1)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
